US09212187B2
Synthesis of (3-chloropropyl)-(2-pyridin-3-ylethyl)pyridin-4-ylmethylamine
(2-Pyridin-3-yl-ethyl)-pyridin-4-ylmethyl-amine(210 mg) and N-ethyldiisopropylamine(0.34 ml) were added to a DMF solution (2 ml) of 1-chloro-3-iodopropane(0.16 ml). The mixture was stirred at room temperature overnight. Water was added to the reaction mixture, followed by extraction using ethyl acetate. The organic layer was washed with water and then saturated saline, and dried with anhydrous sodium sulfate. After condensation under reduced pressure, the residue was purified by silica gel column chromatography (ethyl acetate: methanol=20:1→4:1). The purified product was condensed under reduced pressure to give the title compound(74 mg) as a colorless oily matter.

reactant | (2-Pyridin-3-yl-ethyl)-pyridin-4-ylmethyl-amine | 210 mg | N1=CC(=CC=C1)CCNCC1=CC=NC=C1 | C13H15N3
reactant | N-ethyldiisopropylamine | 0.34 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | 1-chloro-3-iodopropane | 0.16 ml | ClCCCI | C3H6ClI
solvent | Water | O | H2O
product | (3-chloropropyl)-(2-pyridin-3-ylethyl)pyridin-4-ylmethylamine | 74 mg | ClCCCN(CC1=CC=NC=C1)CCC=1C=NC=CC1 | C16H20ClN3
